US04478834
3,5,6,10b-Tetrahydro-2,4-dimethyl-5-oxo-benzo[c][2,7]naphthyridine-1-carboxylic acid ethyl ester
Diethyl 1,4-dihydro-4-(2-aminophenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate (90.0 gms., 0.26 mole) was dissolved in 250 ml dry DMF and the solution refluxed for a period of 72 hours. The solvent was removed under vacuum and the residue recrystallized twice from ethyl acetate to afford 5.4 gms (7%), m.p. 236°-238° C.

reactant | Diethyl 1,4-dihydro-4-(2-aminophenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate | 0.26 mole, 90.0 gms | NC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC | C19H24N2O4
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 3,5,6,10b-Tetrahydro-2,4-dimethyl-5-oxo-benzo[c][2,7]naphthyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2C3=C(NC(C2=C(NC1C)C)=O)C=CC=C3 | C17H18N2O3
